US07507740B2
To a solution of 2-{2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethanol (84 mg) in a mixed solvent (1.0 mL) of toluene/dichloromethane (1/1) was added trichloroacetyl isocyanate (22 μL) under ice-cooling, and the mixture was stirred for 3 hrs. To the reaction mixture were added methanol (0.2 mL) and potassium carbonate (71 mg), and the mixture was stirred at room temperature for 12 hrs. The reaction mixture was poured into 5% aqueous sodium hydrogen carbonate solution (25 mL), and extracted with ethyl acetate (30 mL×3). The organic layer washed successively with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to basic silica gel chromatography (eluent:ethyl acetate/methanol=100/0→95/5). The object fraction was concentrated under reduced pressure and dried to give 2-{2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethyl carbamate (83 mg) as a colorless transparent oil. 4N Hydrochloric acid/ethyl acetate solution was added to the obtained colorless transparent oil. After stirring at room temperature for 3 hrs, the resultant precipitate was collected by filtration, washed with diisopropyl ether, ethyl acetate and ice water, and dried under reduced pressure at 60° C. to give the title compound (57 mg) as a pale-yellow powder.

reactant | 2-{2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethanol | 84 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCOCCO | C23H20ClF3N4O3
reactant | trichloroacetyl isocyanate | 22 μL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | potassium carbonate | 71 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogen carbonate | 25 mL | C(O)([O-])=O.[Na+]
solvent | methanol | 0.2 mL | CO | CH4O
solvent | ethyl acetate tetrahydrofuran | 1.0 mL | C(C)(=O)OCC.O1CCCC1
product | 2-{2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethyl carbamate | 83 mg | C(N)(OCCOCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)Cl)=O | C24H21ClF3N5O4
